US07714010B2
a) 1′-Pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one
To a solution of 1-pentyl-1,3-dihydro-indol-2-one (Farmaco, Ed. Sci. 1977, 32, 703-712) (22 g) and 1,2-dibromoethane (14.1 ml; 162 mmol) in dry N,N-dimethylformamide (180 ml) is added sodium hydride (60% in mineral oil, 13 g; 325 mmol) in small portions over a period of 15 min. The resulting mixture is stirred at 15° C. for 1 h. MeOH (50 ml) and saturated NH4Cl solution (200 ml) is added and the aqueous phase is extracted with Et2O. The combined organic layer is washed with water, brine and dried over MgSO4. The compound (24.8 g) is obtained after evaporation.

reactant | 1-pentyl-1,3-dihydro-indol-2-one | 22 g | C(CCCC)N1C(CC2=CC=CC=C12)=O | C13H17NO
reactant | 1,2-dibromoethane | 162 mmol, 14.1 ml | BrCCBr | C2H4Br2
reactant | sodium hydride | 325 mmol, 13 g | [H-].[Na+]
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | N,N-dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | MeOH | 50 ml | CO | CH4O
product | 1′-Pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one | 24.8 g | C(CCCC)N1C(C2(C3=CC=CC=C13)CC2)=O | C15H19NO
